US05550240
Preparation of 4,6-bis(2,2-dimethylpropylamino)-2-(1-piperazinyl)pyrimidine
The reaction of 2-chloro-4,6-bis(2,2-dimethylpropylamino)pyrimidine with piperazine as described in Example 4 leads to the title product in a yield of 78.3%, m.p.: 132°-136° C.

reactant | 2-chloro-4,6-bis(2,2-dimethylpropylamino)pyrimidine | ClC1=NC(=CC(=N1)NCC(C)(C)C)NCC(C)(C)C | C14H25ClN4
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 4,6-bis(2,2-dimethylpropylamino)-2-(1-piperazinyl)pyrimidine | yield of 78.3% | CC(CNC1=NC(=NC(=C1)NCC(C)(C)C)N1CCNCC1)(C)C | C18H34N6
